US05082847
3,4-Dihydro 5-[2-hydroxy-3-(4-(tert-butoxycarbonylamino)-1-piperidyl)propoxy]carbostyril (1 g, m.p. 138° C.) was dissolved in ethanol (10 mL) and acidified with hydrochloric acid-saturated ethanol. The resulting mixture was diluted with 2 volumes of diisopropylether and kept at room temperature for 24 hours. A white precipitate was collected by filtration and washed with ether to give 1,1 g of 3,4-dihydro-5-[2-hydroxy-3-(4-(tert-butoxycarbonylamino)-1-piperidyl)propoxy]carbostyril hydrochloride, m.p. 195°-197° C. (dec.).

reactant | 3,4-Dihydro 5-[2-hydroxy-3-(4-(tert-butoxycarbonylamino)-1-piperidyl)propoxy]carbostyril | 1 g | OC(COC1=C2CCC(NC2=CC=C1)=O)CN1CCC(CC1)NC(=O)OC(C)(C)C | C22H33N3O5
reactant | hydrochloric acid | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | diisopropylether | C(C)(C)OC(C)C | C6H14O
product | 3,4-dihydro-5-[2-hydroxy-3-(4-(tert-butoxycarbonylamino)-1-piperidyl)propoxy]carbostyril hydrochloride | 1,1 g | Cl.OC(COC1=C2CCC(NC2=CC=C1)=O)CN1CCC(CC1)NC(=O)OC(C)(C)C | InChI=1S/C22H33N3O5.ClH/c1-22(2,3)30-21(28)23-15-9-11-25(12-10-15)13-16(26)14-29-19-6-4-5-18-17(19)7-8-20(27)24-18;/h4-6,15-16,26H,7-14H2,1-3H3,(H,23,28)(H,24,27);1H
